US06960586B2
Production of 6-bromo-2-hydroxy-1-naphthaldehyde
6-Bromo-2-naphthol (25.33 g) was suspended in dichloromethane (300 ml) and titanium tetrachloride (25.0 ml) was slowly added dropwise under cooling in an ice bath. 1,1-Dichloromethylmethyl ether (10.5 ml) was added dropwise to the reaction mixture and the mixture was stirred at the same temperature for 1 hr. The reaction mixture was poured into iced water and dichloromethane was added. The organic layer was separated and the aqueous layer was extracted with dichloromethane. The combined organic layers were washed successively with IN hydrochloric acid, water and saturated aqueous sodium hydrogen carbonate, dried over anhydrous magnesium sulfate and concentrated to give the title compound (28.17 g) as brown crystals.

reactant | 6-Bromo-2-naphthol | 25.33 g | BrC=1C=C2C=CC(=CC2=CC1)O | C10H7BrO
reactant | 1,1-Dichloromethylmethyl ether | 10.5 ml | ClCC(CCl)OC(CCl)CCl | C6H10Cl4O
reactant | water | O | H2O
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | 25.0 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 6-bromo-2-hydroxy-1-naphthaldehyde | 28.17 g | BrC=1C=C2C=CC(=C(C2=CC1)C=O)O | C11H7BrO2
